Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Aspirin / Alpha 2 Adrenergic Agonist / Alpha-1-Proteinase 
Inhibitor / Alpha-2 Receptor Antagonst Antidepresnts
 
Attending: ___.
 
Chief Complaint:
ESRD
 
Major Surgical or Invasive Procedure:
___  Deceased donor kidney transplant with extension of 
deceased donor kidney renal vein. Placement of ureteral stent.

 
History of Present Illness:
 ___ M with ESRD on hemdialysis presents to ___ for kidney
transplant. 

ROS:
(+) per HPI
(-) Denies pain, fevers chills, night sweats, unexplained weight
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with
sleep, pruritis, jaundice, rashes, bleeding, easy bruising,
headache, dizziness, vertigo, syncope, weakness, paresthesias,
nausea, vomiting, hematemesis, bloating, cramping, melena, 
BRBPR,
dysphagia, chest pain, shortness of breath, cough, edema, 
urinary
frequency, urgency

 
Past Medical History:
DM
HTN
Hyperlipidemia
CAD
Obesity
OSA
 
Social History:
___
Family History:
Diabetes T2 in Mother and Sister  
___ T1 in Grandmother  
MI in mother and aunt (age ___ and late ___ respectively)
 
Physical Exam:
T=97.9F; BP= 160/73 mmHg; HR= 61x'; RR= 18x'; Sat O2=98%
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, no perioral
erythema
CV: Regular rate and rhythm, normal S1, increased S2, systolic
aortic ejection murmur without irradiation to carotids, no 
gallop
PULM: Clear to auscultation b/l, No respiratory distress
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: Deferred
Neuro: CSM grossly intact x 4
Ext: No ___ edema, UE and ___ warm and well perfused bilat.
Palpable thrill in  right arm on site of fistula. Preserved
peripheral pulses

Laboratory:
Na= 140
K= 4.6
Cl= 97
HCO3= 24
BUN= 96
Creatinine= 11.0
Ca= 9.3
Mg= 2.4
P= 4.6
WBC= 5.2
Hb= 11.2
Hct= 34
Platelets= 119
INR= 2.6
Imaging:
Chest x-ray: In comparison with the study of ___ 
from
an outside facility, the cardiac silhouette is within normal
limits and there is no vascular congestion, pleural effusion, or
acute focal pneumonia.  Dialysis catheter extends to about the
level of the cavoatrial junction. 

 
Pertinent Results:
___ 10:40AM BLOOD WBC-5.2 RBC-3.96* Hgb-11.2* Hct-34.0* 
MCV-86 MCH-28.3 MCHC-32.9 RDW-16.3* RDWSD-50.4* Plt ___
___ 06:01AM BLOOD WBC-4.8 RBC-2.99* Hgb-8.4* Hct-25.7* 
MCV-86 MCH-28.1 MCHC-32.7 RDW-17.5* RDWSD-55.4* Plt ___
___ 05:55AM BLOOD WBC-4.0 RBC-2.72* Hgb-7.6* Hct-23.9* 
MCV-88 MCH-27.9 MCHC-31.8* RDW-17.4* RDWSD-56.0* Plt Ct-92*
___ 10:40AM BLOOD ___ PTT-45.7* ___
___ 05:55AM BLOOD ___ PTT-28.9 ___
___ 10:40AM BLOOD UreaN-96* Creat-11.0*# Na-140 K-4.6 Cl-97 
HCO3-24 AnGap-24*
___ 06:43AM BLOOD Glucose-182* UreaN-113* Creat-8.8* Na-136 
K-5.1 Cl-103 HCO3-18* AnGap-20
___ 06:45AM BLOOD Glucose-79 UreaN-81* Creat-6.1*# Na-139 
K-4.1 Cl-102 HCO3-27 AnGap-14
___ 05:55AM BLOOD Glucose-141* UreaN-99* Creat-7.3* Na-139 
K-4.9 Cl-105 HCO3-24 AnGap-15
___ 05:55AM BLOOD Calcium-8.7 Phos-6.3* Mg-2.1
___ 06:01AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 06:01AM BLOOD tacroFK-8.2
___ 06:45AM BLOOD tacroFK-6.1
___ 06:00AM BLOOD tacroFK-11.1
___ 05:55AM BLOOD tacroFK-10.5

 
 
___ 10:48 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

___ 5:52 pm URINE      Source: ___. 

   URINE CULTURE (Pending): 

 
Brief Hospital Course:
___ M with h/o previous living related kidney transplant that 
failed and back on  hemdialysis. He underwent deceased donor 
kidney transplant from a ___ female donor (friend)after 
brain death which was a directed donation on ___. Surgeon was 
Dr. ___. A ureteral stent was placed. Please refer to 
operative note for complete details. He received induction 
immunosuppression that consisted of ATG, Cellcept and 
Solu-Medrol. 

Initially postop, he was making little urine. Creatinine 
decreased slightly. On postop day 2, there was sanguinous oozing 
from the incision. INR was 2.9. Two units of FFP were given with 
INR decrease to 2.0. A few sutures were placed in the incision 
at oozing point with cessation.  Home coumadin was held (for h/o 
aflutter post cardioversion in ___. INRs decreased 
further to 1.0. He remained in sinus rhythm. Amiodarone was 
restarted on postop day 2. 

On postop day 1, An insulin drip was required for hyperglycemia. 
A ___ consult was obtained. The drip was stopped on postop 
day 3 when diet was advanced and tolerated. NPH/Lantus and 
sliding scale Humalog was started with improved control. 

Urine output increased to approximately a liter/day. However, 
creatinine remained in the 9 to 7 range with BUNs in the ___ to 
110 range. He was given a total of 4 doses of ATG. Steroids were 
weaned to 10mg daily. Cellcept was switched to Myfortic for GI 
complaints. Doses were divided to qid with improvement in 
nausea. He did have some diarrhea. C.diff was negative. 

HD was performed on ___ (postop day 5)for DGF. The decision was 
made to continue HD as an outpatient on a ___ schedule 
with plan to biopsy the kidney on ___. ___ was able to 
switch his schedule to ___ schedule. He received dialysis 
at ___ on ___. Weight was 112.9kg on ___. 

Anti-HTN meds were adjusted for sbp greater than 160 with SBP 
decreasing to the 130s with HR in ___. 

Of note, his donor had a UTI (GPC). Vancomycin was started on 
___ until ___ when finalized culture isolated enterococcus 
faecalis sensitive to ___ and vanco. Vanco was 
switched to Amoxicillin 500mg daily for 3 days. He remained 
afebrile. UA was negative and urine culture was contaminated. 
Repeat ua and culture were done on ___ (<10,000 col). 

Diet was advanced and tolerated. Bowel function resumed. He was 
ambulating independently. He did well with medication teaching 
and was ready for discharge with ___ services on postop day 8. 

His outpatient cardiologist, Dr. ___ was contacted regarding 
coumadin. A return call was pending at time of discharge. The 
patient s understanding was that coumadin would be stopped after 
___ months. This will require a f/u call to his Cardiologist. In 
the meantime, coumadin was stopped pending renal biopsy. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. bimatoprost 0.01 % ophthalmic ___ 
4. Carvedilol 37.5 mg PO BID 
5. Calcitriol 0.25 mcg PO DAILY 
6. Cinacalcet 30 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Levemir 40 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
9. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
10. PredniSONE 20 mg PO DAILY:PRN gout flare 
Tapered dose - DOWN 
11. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
12. Tacrolimus 10 mg PO Q12H 
13. Warfarin 2.5 mg PO 3X/WEEK (___) 
14. Warfarin 5 mg PO 4X/WEEK (___) 
15. linagliptin 5 mg oral DAILY 
16. GlipiZIDE 5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain/premed 
do not take more than 3000mg per day  
2.  Amoxicillin 500 mg PO DAILY donor uti:enterococcus ___ 
Duration: 3 Days  
3.  Ciprofloxacin HCl 500 mg PO Q24H Duration: 1 Dose  
4.  Docusate Sodium 100 mg PO BID  
5.  Mycophenolate Sodium ___ 360 mg PO QID  
6.  Nystatin Oral Suspension 5 ml PO QID  
7.  Sodium Bicarbonate 650 mg PO BID  
8.  Sodium Polystyrene Sulfonate 15 gm PO DAILY:PRN elevated 
potassium  
9.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
10.  ValGANCIclovir 450 mg PO 2X/WEEK (MO,TH)  
11.  Levemir 20 Units Breakfast
NPH 30 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin 
12.  PredniSONE 10 mg PO DAILY  
13.  sevelamer CARBONATE 800 mg PO BID with meals 
do not take within 2 hours of taking Myfortic  
14.  Tacrolimus 12 mg PO Q12H  
15.  Amiodarone 200 mg PO DAILY  
16.  amLODIPine 10 mg PO DAILY  
17.  bimatoprost 0.01 % ophthalmic ___  
18.  Carvedilol 37.5 mg PO BID  
19.  Pantoprazole 40 mg PO Q24H  
20.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  
21.Insulin Pen Needles
32G, ___ (4mm nano)
use to inject insulin up to 4 times daily, #100, refills:2
ICD 10 EO9.65

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ESRD s/p renal transplant with DGF
DM
HTN
h/o a flutter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Kidney Transplant
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, yellowing of skin or 
eyes, increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, glucoses consistently over 200, 
decreased urine output or dark, cloudy urine, swelling of 
abdomen or ankles,  or any other concerning symptoms.

Continue hemodialysis on ___ schedule at your 
outpatient HD unit in ___. You are scheduled for a kidney 
transplant biopsy on ___ (see appointment section). DO 
NOT TAKE COUMADIN, ASPIRIN or Non-Steroidal medications

Your next lab draw will be on ___ then labwork twice 
weekly as arranged by the transplant clinic, with results to the 
transplant clinic (Fax ___ . CBC, Chem 10, AST, T 
Bili, Trough Tacro level, Urinalysis. 

**On the days you have your labs drawn, do not take your 
Tacrolimus until your labs are drawn. Bring your Tacrolimus with 
you so you may take your medication as soon as your labwork has 
been drawn.

Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.

You may shower with soap and water, rinse, pat dry. Do not apply 
lotions or powder near the incision. You may leave the incision 
open to the air. The staples will be removed approximately 3 
weeks following your transplant.

No tub baths or swimming
No driving if taking narcotic pain medications

Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.

Drink enough fluids to keep your urine light in color. Your 
appetite will return with time. Eat small frequent meals, and 
you may supplement with things like carnation instant breakfast 
or Ensure

Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant

Refer to the transplant binder. 
There is always someone on call at the transplant clinic with 
any questions that may arise
 
Followup Instructions:
___